US04281000
2-Ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester
As for Example 2, 1.83 g. of 3-amino-4-carboethoxy-5-ethylpyrazole is heated at reflux temperature for 16 hours with 1.76 g. of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one in 25 ml. of glacial acetic acid to give 1.20 g. of the product of the example as colorless crystals, m.p. 119°-120° C.

reactant | 3-amino-4-carboethoxy-5-ethylpyrazole | NC1=NNC(=C1C(=O)OCC)CC | C8H13N3O2
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Ethyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN2C1N=CC=C2C=2C=NC=CC2)CC | C16H16N4O2
